US05240938
Step A: Preparation of methyl 2-(4-hydroxymethyl-2-methoxyphenoxy)-2-phenylacetate
Using the K2CO3 /acetone conditions for phenol alkylation described in Step A of Example 30, 1.00 g (6.49 mmol) of 4-hydroxy-3-methoxybenzyl alcohol was alkylated with 1.64 g (7.14 mmol) of methyl 2-bromophenylacetate to afford 0.495 g (25%) of the title compound.

reactant | K2CO3 acetone | C(=O)([O-])[O-].[K+].[K+].CC(=O)C
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 4-hydroxy-3-methoxybenzyl alcohol | 6.49 mmol, 1.00 g | OC1=C(C=C(CO)C=C1)OC | C8H10O3
reactant | methyl 2-bromophenylacetate | 7.14 mmol, 1.64 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
product | methyl 2-(4-hydroxymethyl-2-methoxyphenoxy)-2-phenylacetate | 0.495 g, 25% | OCC1=CC(=C(OC(C(=O)OC)C2=CC=CC=C2)C=C1)OC | C17H18O5
